US04439425
4.8 g of docosanyl-p-toluenesulfonate and 5 g of potassium carbonate are added to 3.6 g of N-palmitoyl-(L)-cysteine in 50 ml of ethanol. The mixture is heated under stirring and in a nitrogen atmosphere at 80° for 20 hours. After evaporating to dryness the residue is acidified with 1 N HCl so as to obtain a pH of about 3 and then it is distributed between chloroform and water. After having dried and evaporated the chloroform layer a colourless crystalline residue is obtained, which is recrystallized from ethyl acetate. There is thus obtained the N-palmitoyl-S-docosanyl-(L)-cysteine.

reactant | docosanyl-p-toluenesulfonate | 4.8 g | C(CCCCCCCCCCCCCCCCCCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C29H52O3S
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-palmitoyl-(L)-cysteine | 3.6 g | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CS)C(=O)O | C19H37NO3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-palmitoyl-S-docosanyl-(L)-cysteine | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CSCCCCCCCCCCCCCCCCCCCCCC)C(=O)O | C41H81NO3S
